US08106230B2
Potassium carbonate (586 mg, 4.24 mmol), water (2.5 ml), ethyl 2-(tert-butoxycarbonylamino)-2-cyano-3-[(−)-menthyloxycarbonyl]propionate (1.00 g, 2.46 mmol) and acetone (5 ml) were mixed and 30% aqueous hydrogen peroxide solution (0.8 ml) was added dropwise under cooling with water. Then the mixture was heated at 10-30° C. of inner temperature and stirred for about 4 hours. The precipitated crystals were filtered and washed with sprayed water. It was dried in airflow at 60° C. overnight to give ethyl 2-(tert-butoxycarbonylamino)-2-carbamoyl-3-[(−)-menthyloxycarbonyl]propionate (802 mg, yield 73.3%). Optical purity was 10.7% d.e.

reactant | Potassium carbonate | 4.24 mmol, 586 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-(tert-butoxycarbonylamino)-2-cyano-3-[(−)-menthyloxycarbonyl]propionate | 2.46 mmol, 1.00 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)(CC(=O)OC1CC(CCC1C(C)C)C)C#N | C22H36N2O6
reactant | hydrogen peroxide | 0.8 ml | OO | H2O2
solvent | water | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | 2.5 ml | O | H2O
product | ethyl 2-(tert-butoxycarbonylamino)-2-carbamoyl-3-[(−)-menthyloxycarbonyl]propionate | 802 mg, yield 73.3% | C(C)(C)(C)OC(=O)NC(C(=O)OCC)(CC(=O)OC1CC(CCC1C(C)C)C)C(N)=O | C22H38N2O7
